US05160662
Into 100 ml of dry DMF containing 0.86 g of sodium hydride (purity 60%), were added dropwise 3.9 g of R-form oa 1-trifluoromethyl-heptanol, at room temperature with such a speed not causing too rapid generation of hydrogen, to prepare sodium salt (alkoxide) of R-form oa 1-trifluoromethyl-heptanol. After addition was over, stirring was continued further an hour at room temperature, followed by adding thereto 4.80 g of p-iodo-benzonitrile and then refluxing for 2 hours. After cooling, the product was introduced into iced water, and extracted with hexane. The hexane phase was washed subsequently with water, 1N-HCl aqueous solution and then water, followed by purifying with silica gel column to obtain 5.16 g of oily oa p-(1-trifluoromethyl-heptyloxy)- benzonitrile.

reactant | sodium hydride | [H-].[Na+]
reactant | 1-trifluoromethyl-heptanol | FC(C(CCCCCC)O)(F)F | C8H15F3O
reactant | hydrogen | [H][H] | H2
reactant | sodium | [Na] | Na
reactant | p-iodo-benzonitrile | 4.80 g | IC1=CC=C(C#N)C=C1 | C7H4IN
solvent | water | O | H2O
solvent | DMF | 100 ml, 0.86 g | CN(C)C=O | C3H7NO
product | p-(1-trifluoromethyl-heptyloxy)- benzonitrile | FC(C(CCCCCC)OC1=CC=C(C#N)C=C1)(F)F | C15H18F3NO
